US07524969B2
Preparation of Diethyl 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-thiazol-2-yl-amidophosphate
To a solution of (2-amino-1,3-thiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol (133 mg 0.5 mmol) from step 1 of example 1-1-1, DMAP (61 mg, 0.5 mmol), Et3N (100 μL, 0.72 mmol) and CH2Cl2 (5 ml) was added diethyl chlorophosphate (87 μL, 06 mmol). The reaction mixture was stirred at r.t. for 96 h. Solvent was removed and EtOAc was added. The solution was washed with water. After removal of solvent, the residue was purified by a short Ion Exchange Column (Dowex-50W, ethanol) to afford the title compound as a white solid (43 mg). 1H NMR (DMSO-d6) δ 1.20 (t, 6H), 3.89 (m, 4H), 7.46 (s, 1H), 9.18 (s, 1H); ESIMS: m/z 401 (M−H).

reactant | (2-amino-1,3-thiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.5 mmol, 133 mg | NC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O | C6H4F6N2OS
reactant | Et3N | 0.72 mmol, 100 μL | CCN(CC)CC | C6H15N
reactant | diethyl chlorophosphate | 87 μL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
catalyst | DMAP | 0.5 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Diethyl 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-thiazol-2-yl-amidophosphate | 43 mg | FC(C(C(F)(F)F)(O)C1=CN=C(S1)NP(=O)(OCC)OCC)(F)F | C10H13F6N2O4PS
